US06472386B1
Synthesis of N,N′-bis[[1-Benzyl-5-(3,4,5-trimethoxy-phenyl)pyrazol-3-yl]methyl]homopiperazine
1-Benzyl-3-chloromethyl-5-(3,4,5-trimethoxy-phenyl)pyrazole (559 mg) and homopiperazine (68 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 1-Benzyl-3-chloromethyl-5-(3,4,5-trimethoxy-phenyl)pyrazole | 559 mg | C(C1=CC=CC=C1)N1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)CCl | C20H21ClN2O3
reactant | homopiperazine | 68 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[1-Benzyl-5-(3,4,5-trimethoxy-phenyl)pyrazol-3-yl]methyl]homopiperazine | C(C1=CC=CC=C1)N1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)CN1CCN(CCC1)CC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)CC1=CC=CC=C1 | C45H52N6O6
